US07705004B2
N4-(1H-indazol-6-yl)-N2-(4-(4-methylpiperazin-1-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine
To a solution of N4-(1H-indazol-6-yl)-N2-(4-(4-methylpiperazin-1-yl)phenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (29 mg, 0.049 mmol) in methanol (MeOH) (2 mL), aq. 1N KOH (1.0 mL, 1.0 mmol) was added. The mixture was then heated at 60° C. for 4 h. before it was concentrated in vacuo. The residue was then acidified with acetic acid (HOAc) (2.0 mL) and purified by HPLC to give the title compound (10 mg). MS 440.2 (M+H) (Compound 13-1).

reactant | N4-(1H-indazol-6-yl)-N2-(4-(4-methylpiperazin-1-yl)phenyl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 0.049 mmol, 29 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C31H31N9O2S
reactant | KOH | 1.0 mmol, 1N, 1.0 mL | [OH-].[K+]
solvent | methanol | 2 mL | CO | CH4O
product | N4-(1H-indazol-6-yl)-N2-(4-(4-methylpiperazin-1-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 10 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C)NC=C2 | C24H25N9
